US04820834
1,3-Dihydro-3-(RS)-(4-methylphenylsulfonyl)amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one (116 mg, 0.43 mmole) and p-toluenesulfonyl chloride (82 mg, 0.43 mmole) were combined at room temperature in 5 ml of methylene chloride. The pH of the reaction mixture was then adjusted to 8.5 with triethylamine and stirring was continued at room temperature overnight. The reaction mixture was partitioned between methylene chloride and 10% citric acid solution. The phases were separated and the organic layer was washed in succession with 10% citric acid solution (1×30 ml), saturated sodium bicarbonate solution (2×30 ml) and brine. The dried (MgSO4) extracts were concentrated to yield 200 mg of crude product. Recrystallization from ethyl acetate afforded the analytical sample as white needles, m.p. 215°-216° C. HPLC: Greater than 99% pure.

reactant | 1,3-Dihydro-3-(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.43 mmole, 116 mg | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C15H12FN3O
reactant | p-toluenesulfonyl chloride | 0.43 mmole, 82 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-3-(RS)-(4-methylphenylsulfonyl)amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 200 mg | CC1=CC=C(C=C1)S(=O)(=O)NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C22H18FN3O3S
